US06350749B1
To a solution of 2-bromo-4-fluorotoluene (16.0 g) in anhydrous tetrahydrofuran was added dropwise at −78° C. a solution of 1.6M butyllithium in hexane (55.5 ml), and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added dropwise a solution of dimethylformamide (6.8 g) in tetrahydrofuran (20 ml), and the mixture was allowed to stand to warm up to 0° C. To the reaction solution was added ice-water, and the reaction solution was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give oil of 5-fluoro-2-methylbenzaldehyde (11.5 g).

reactant | 2-bromo-4-fluorotoluene | 16.0 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | dimethylformamide | 6.8 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | 55.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-fluoro-2-methylbenzaldehyde | 11.5 g | FC=1C=CC(=C(C=O)C1)C | C8H7FO
